US08981084B2
A solution of 3-(N′-hydroxycarbamimidoyl)benzoic acid (1 g, 5.6 mmol) in anhydrous pyridine (15 mL) was cooled to 0° C. and trifluoroacetic anhydride (2.3 mL, 16.7 mmol) was added dropwise. The reaction mixture was slowly warmed to room temperature and further heated to 50° C. for 3 h. The reaction mixture was poured into ice-water and adjusted to pH˜4 by addition of 1.5N HCl. The product was extracted with EtOAc and the solvent removed under reduced pressure. The crude product was purified by column chromatography [silica gel 60-120 mesh, eluent: 10% EtOAc in petroleum ether] to afford 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (400 mg, yield 28%): 1H NMR (400 MHz, CDCl3) δ 13.44 (br s, 1H), 8.56 (s, 1H), 8.30 (d, J=7.9 Hz, 1H), 8.21 (d, J=7.9 Hz, 1H), 7.78 (t, J=7.8 Hz, 1H). MS (ESI) m/z: Calculated for C10H5F3N2O3: 258.03. found: 257 (M−H)−.

reactant | 3-(N′-hydroxycarbamimidoyl)benzoic acid | 5.6 mmol, 1 g | ON=C(N)C=1C=C(C(=O)O)C=CC1 | C8H8N2O3
reactant | trifluoroacetic anhydride | 16.7 mmol, 2.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 1.5N | Cl | ClH
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 400 mg, yield 28% | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
